US09340506B2
tert-Butyl 6-[[2-(4-cyclopropylsulfonylphenyl)-2-(2,4-difluoroanilino)acetyl]amino]pyridine-3-carboxylate
The compound of example A8 was obtained by similar method described in example A1 using 2-(4-cyclopropylsulfonylphenyl)-2-(2,4-difluoroanilino)acetic acid (Preparation 3, 0.150 g, 0.408 mmol), 6-aminopyridine-3-carboxylic acid tert-butyl ester (preparation 54, 0.095 g, 0.49 mmol), HOBT (0.082 g, 0.612 mmol), and EDCl (0.116 g, 0.612 mmol), N-methyl morpholine (0.103 g, 1.02 mmom) in DCM (4 mL) to provide the title compound (0.031 g).

reactant | 2-(4-cyclopropylsulfonylphenyl)-2-(2,4-difluoroanilino)acetic acid | 0.408 mmol, 0.150 g | C1(CC1)S(=O)(=O)C1=CC=C(C=C1)C(C(=O)O)NC1=C(C=C(C=C1)F)F | C17H15F2NO4S
reactant | 6-aminopyridine-3-carboxylic acid tert-butyl ester | 0.49 mmol, 0.095 g | C(C)(C)(C)OC(=O)C=1C=NC(=CC1)N | C10H14N2O2
reactant | HOBT | 0.612 mmol, 0.082 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCl | 0.612 mmol, 0.116 g | CCN=C=NCCCN(C)C.Cl
reactant | N-methyl morpholine | 0.103 g | CN1CCOCC1 | C5H11NO
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl 6-[[2-(4-cyclopropylsulfonylphenyl)-2-(2,4-difluoroanilino)acetyl]amino]pyridine-3-carboxylate | 0.031 g | C1(CC1)S(=O)(=O)C1=CC=C(C=C1)C(C(=O)NC1=CC=C(C=N1)C(=O)OC(C)(C)C)NC1=C(C=C(C=C1)F)F | C27H27F2N3O5S
